US07465742B2
3-Amino-7-carboxymethyl-4-thiophen-2-yl-6,7-dihydro-5H-cyclopenta[b]thieno [3,2-e]pyridine-2-carboxylic acid amide (36)
To a mixture of 2-cyano-3-thiophen-2-yl-thioacrylamide (6.3 g, 33 mmol), 2-oxocyclopentaneacetic acid (4.6 g, 33 mmol) in 70 ml of ethanol was added N-methylmorpholine (6.6 g, 65 mmol). The resulting mixture was refluxed overnight, then 2-chloroacetamide (6.1 g, 65 mmol) and anhydrous potassium carbonate (9.0 g, 65 mmol) was added with stirring. The reaction mixture was continued to reflux overnight. The reaction mixture was cooled to room temperature and the solid was filtered and washed with ethanol. The sodium salt of product was dissolved in 100 ml of water and neutralized with 10% hydrochloric acid to pH<6. The precipitate was filtered and washed with water to give 3.7 g (31%) of pure product as a yellow solid. 1H-NMR (300 MHz, DMSO-d6): δ 12.24 (brs, 1H), 7.87 (d, J=5.1 Hz, 1H), 7.27-7.24 (m, 2H), 7.18 (brs, 2H), 5.93 (brs, 2H), 3.55 (m, 1H), 2.94 (dd, J=3.9, 16.2 Hz, 1H), 2.68 (m, 2H), 2.40 (m, 2H), 1.75 (m, 1H). ES MS m/z 374 (M+H)+, 372 (M−H)−.

reactant | 2-cyano-3-thiophen-2-yl-thioacrylamide | 33 mmol, 6.3 g | C(#N)C(C(=S)N)=CC=1SC=CC1 | C8H6N2S2
reactant | 2-oxocyclopentaneacetic acid | 33 mmol, 4.6 g | O=C1C(CCC1)CC(=O)O | C7H10O3
reactant | N-methylmorpholine | 65 mmol, 6.6 g | CN1CCOCC1 | C5H11NO
reactant | 2-chloroacetamide | 65 mmol, 6.1 g | ClCC(=O)N | C2H4ClNO
reactant | potassium carbonate | 65 mmol, 9.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 70 ml | C(C)O | C2H6O
product | 3-Amino-7-carboxymethyl-4-thiophen-2-yl-6,7-dihydro-5H-cyclopenta[b]thieno [3,2-e]pyridine-2-carboxylic acid amide | 3.7 g, 31% | NC1=C(SC2=C1C(=C1C(=N2)C(CC1)CC(=O)O)C=1SC=CC1)C(=O)N | C17H15N3O3S2
